US09340538B2
Step A: Methyl 3-(morpholin-2-yl)propanoate
Benzyl 2-(3-methoxy-3-oxoprop-1-en-1-yl)morpholine-4-carboxylate (6.47 g, 21.2 mmol) was reacted with Pd—C (10%, 0.65 g) according to the procedure as described in Example 34, Step C to give the title compound as colorless oil (3.21 g, 87%). The compound was characterized by the following spectroscopic data:

reactant | Benzyl 2-(3-methoxy-3-oxoprop-1-en-1-yl)morpholine-4-carboxylate | 21.2 mmol, 6.47 g | COC(C=CC1CN(CCO1)C(=O)OCC1=CC=CC=C1)=O | C16H19NO5
catalyst | Pd—C | 0.65 g | [Pd] | Pd
product | Methyl 3-(morpholin-2-yl)propanoate | 3.21 g, 87% | N1CC(OCC1)CCC(=O)OC | C8H15NO3
